US05013841
In a sealed tube, 1-cyclopropyl-5,6-difluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 28% aqueous ammonia were heated at 100° C. for 48 hours. The reaction mixture was concentrated under reduced pressure. A 1N aqueous solution of sodium hydroxide was added to the residue, and the insoluble matter was removed by filtration. A 10% aqueous solution of acetic acid was added to the filtrate to adjust its pH to 8, and it was then extracted with chloroform. The extract was dried and concentrated. Acetonitrile was added to the residue, and the mixture was cooled with ice. The crystals were collected by filtration and recrystallized from aqueous ammonia to give 5-amino-1-cyclopropyl-6-fluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. m.p. 253°-254° C.

reactant | 1-cyclopropyl-5,6-difluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1C[C@H](N[C@H](C1)C)C)F)F)=O)C(=O)O | C19H21F2N3O3
reactant | ammonia | N | H3N
product | 1,4-dihydro-4-oxoquinoline-3-carboxylic acid | O=C1C(=CNC2=CC=CC=C12)C(=O)O | C10H7NO3
